US06599917B1
b) 2-Methoxy-3-(2-thienylcarbonyl)pyridine
A mixture of 1.64 g of 2-chloro-3-(2-thienylcarbonyl)pyridine, 4.5 ml of a methanol solution of 28% sodium methoxide and 2.0 ml of methanol was heated under stirring for 30 minutes. After cooling as it was, water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed, to give 1.46 g of the target compound.

reactant | 2-chloro-3-(2-thienylcarbonyl)pyridine | 1.64 g | ClC1=NC=CC=C1C(=O)C=1SC=CC1 | C10H6ClNOS
reactant | methanol | 4.5 ml | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 2.0 ml | CO | CH4O
solvent | water | O | H2O
product | 2-Methoxy-3-(2-thienylcarbonyl)pyridine | 1.46 g | COC1=NC=CC=C1C(=O)C=1SC=CC1 | C11H9NO2S
